US08541461B2
79D. 2-(4-Chloro-phenyl)-2-[4-(1H-pyrazol-4-yl)-phenyl]-morpholine
2-(4-chloro-phenyl)-2-(4-Iodo-phenyl)morpholine was reacted with 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole following the procedure set out in Example 1, but using tetrakis(triphenylphosphine)palladium (0) as the catalyst to give the title compound. LCMS (PS-A3) Rt 6.88 min [M+H+] 340. 1H NMR (Me-d3-OD) δ 2.84-2.88 (2H, m), 3.32-3.36 (1H, m), 3.45-3.49 (1H, m), 3.69-3.72 (2H, m), 7.31 (2H, d), 7.40 (4H, apparent d), 7.56 (2H, d), 7.92 (2H, br.s).

reactant | 2-(4-chloro-phenyl)-2-(4-Iodo-phenyl)morpholine | ClC1=CC=C(C=C1)C1(CNCCO1)C1=CC=C(C=C1)I | C16H15ClINO
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
catalyst | tetrakis(triphenylphosphine)palladium | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-Chloro-phenyl)-2-[4-(1H-pyrazol-4-yl)-phenyl]-morpholine | ClC1=CC=C(C=C1)C1(CNCCO1)C1=CC=C(C=C1)C=1C=NNC1 | C19H18ClN3O
